US05556864
59(a) 1-Methyl-2-{2-[2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine
Following a procedure similar to that described in Example 35(a), 900 mg of 2-(2-phenylethyl)phenol (prepared as described in Preparation 19), 1.02 g of potassium t-butoxide and 836 mg of 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride were reacted in 10 ml of dimethylacetamide. The mixture was then worked up as described in Example 35(a), and the crude product thus obtained was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 480 mg of the title compound as a colorless oil.

reactant | 2-(2-phenylethyl)phenol | 900 mg | C1(=CC=CC=C1)CCC1=C(C=CC=C1)O | C14H14O
reactant | potassium t-butoxide | 1.02 g | CC(C)([O-])C.[K+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochloride | 836 mg | Cl.ClCCC1N(CCC1)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1-Methyl-2-{2-[2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine | 480 mg | CN1C(CCC1)CCOC1=C(C=CC=C1)CCC1=CC=CC=C1 | C21H27NO
